US05284868
2-Amino-4-(3-chloro-4-fluorophenyl)-4H-naphtho[1,2-b]pyran-3-carbonitrile (3.12 g) was heated, under reflux, in triethyl orthoformate (40 ml) for 24 hours. A fraction coming over at 80° to 140° C. was distilled off and more triethyl orthofomate (40 ml) was added, and the refluxing was continued for a further 24 hours. The solution was evaporated to dryness. The gummy residue was dissolved in chloroform and passed through a column of `flash` silica using 30% hexane in chloroform as eluant. The fractions containing product were bulked, evaporated and triturated with ethyl acetate to give white crystals of 4-(3-chloro-4-fluorophenyl)-2-ethoxymethyleneamino-4H-naphtho[1,2-b]pyran-3-carbonitrile, m.p. 146°-148° C.

reactant | 2-Amino-4-(3-chloro-4-fluorophenyl)-4H-naphtho[1,2-b]pyran-3-carbonitrile | 3.12 g | NC1=C(C(C2=C(O1)C1=CC=CC=C1C=C2)C2=CC(=C(C=C2)F)Cl)C#N | C20H12ClFN2O
solvent | triethyl orthoformate | 40 ml | C(OCC)(OCC)OCC | C7H16O3
product | 4-(3-chloro-4-fluorophenyl)-2-ethoxymethyleneamino-4H-naphtho[1,2-b]pyran-3-carbonitrile | ClC=1C=C(C=CC1F)C1C2=C(OC(=C1C#N)N=COCC)C1=CC=CC=C1C=C2 | C23H16ClFN2O2
